US04992433
A solution of 7.3 parts of 1-(6-methoxy-3-pyridazinyl)-4-piperidineethanol in 130 parts of dichloromethane was added dropwise to 7.3 parts of thionyl chloride at room temperature. Upon complete addition, stirring was continued overnight at room temperature. The residue was taken up in water and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated, yielding a first fraction of 1.8 parts of 3-[4-(2-chloroethyl)-1-piperidinyl]-6-methoxypyridazine. The aqueous layer was neutralized with an ammonium hydroxide solution. The precipitated product was filtered off and taken up in dichloromethane. The organic layer was dried, filtered and evaporated, yielding a second fraction of 4.0 parts of 3-[4-(2-chloroethyl)-1-piperidinyl]-6-methoxypyridazine. Total yield: 5.8 parts (73.4%) of 3-[4-(2-chloroethyl)-1-piperidinyl]-6-methoxypyridazine as a residue (int. 96).

reactant | 1-(6-methoxy-3-pyridazinyl)-4-piperidineethanol | COC1=CC=C(N=N1)N1CCC(CC1)CCO | C12H19N3O2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | water | O | H2O
product | 3-[4-(2-chloroethyl)-1-piperidinyl]-6-methoxypyridazine | ClCCC1CCN(CC1)C=1N=NC(=CC1)OC | C12H18ClN3O
